US08106064B2
3-(5-Dimethylamino-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (166):
A solution of 3-(5-dimethylamino-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (0.0834 g, 0.255 mmol) in acetyl bromide (3.0 mL) was heated at 70° C. for 12 h. Reaction mixture was concentrated and purified by reverse phase HPLC (Phenomenex Synergi® column, 5 to 100% acetonitrile/H2O) to give an orange solid after lyophilization (0.030 g, 39%). 1H NMR (300 MHz, CDCl3): δ 9.55 (br s, 1H), 9.32 (br s, 1H), 7.85 (s, 1H), 7.79 (s, 1H), 7.64 (s, 1H), 2.45 (s, 9H). Mass spectrum: 299.1 (M+H)+.

reactant | 3-(5-dimethylamino-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.255 mmol, 0.0834 g | CN(C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C#N)C=C(C1)C)C | C17H18N4O3
solvent | acetyl bromide | 3.0 mL | C(C)(=O)Br | C2H3BrO
product | 3-(5-Dimethylamino-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | CN(C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C)C | C15H14N4O3
